US06069156
To a solution of 1-(2-chlorobenzyl)-2-ethyl-3-propionylindole-6-carbonitrile (107 mg) in xylene (5 ml) was added trimethyltin azide (190 mg), and the mixture was stirred at 120° C. for 14 hours. The resulting mixture was poured into 1N HCl and extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with 20% methanol in chloroform to give 1-(2-chlorobenzyl)-2-ethyl-3-propionyl-6-(1H-tetrazol-5-yl)indole (77 mg) as a solid.

reactant | 1-(2-chlorobenzyl)-2-ethyl-3-propionylindole-6-carbonitrile | 107 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C#N)C(CC)=O)CC)C=CC=C1 | C21H19ClN2O
reactant | trimethyltin azide | 190 mg | C[Sn](C)(C)N=[N+]=[N-]
reactant | HCl | 1N | Cl | ClH
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2-chlorobenzyl)-2-ethyl-3-propionyl-6-(1H-tetrazol-5-yl)indole | 77 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C2=NN=NN2)C(CC)=O)CC)C=CC=C1 | C21H20ClN5O
